US05180772
POST ADDITION OF GLYCOLURIL INTO AIRFLEX 109 COPOLYMER EMULSION
The following experimental procedure was utilized to test physical properties of nonwoven substrates impregnated with the tetramethylol glycoluril-containing VAE copolymer emulsions. The copolymer binder was applied to the substrate using the Atlas padding technique. The emulsions were initially diluted with deionized water to 9.0% solids and the pH was adjusted to 4.0 with ammonium chloride. Whatman #4 chromatography paper was saturated with the binder, the samples were dried, heated at 300° F. for five minutes and then subjected to tensile testing. The strips were immersed in solvent for three minutes and then placed in an Instron (2" jaw span, 1"/min. crosshead speed) for testing.

reactant | tetramethylol glycoluril | C(N1C2C(N(C1=O)CO)N(C(=O)N2CO)CO)O | C8H14N4O6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | O | H2O
product | GLYCOLURIL | C12C(NC(=O)N1)NC(=O)N2 | C4H6N4O2
